US09120822B2
Trifluoroacetic acid (10.0 mL, 131.2 mmol, 20.0 eq) is added at 0° C. to a stirred solution of (4-benzyloxy-6-methoxy-[1,5]naphthyridin-3-yl)-carbamic acid tert-butyl ester (2.50 g, 6.55 mmol, 1.0 eq) in dichloromethane (50 mL). After 20 hours stirring at 0° C., the reaction mixture is extracted with dichloromethane (3×200 mL) and water (200 mL) and the pH is adjusted to 12 by the addition of a 1N sodium hydroxide aqueous solution. The combined organic layers are dried over sodium sulfate, filtered and concentrated to afford 4-benzyloxy-6-methoxy-[1,5]naphthyridin-3-ylamine as a light yellow solid (1.70 g, 92% yield).

reactant | Trifluoroacetic acid | 131.2 mmol, 10.0 mL, 20.0 eq | FC(C(=O)O)(F)F | C2HF3O2
reactant | (4-benzyloxy-6-methoxy-[1,5]naphthyridin-3-yl)-carbamic acid tert-butyl ester | 6.55 mmol, 2.50 g, 1.0 eq | C(C)(C)(C)OC(NC=1C=NC2=CC=C(N=C2C1OCC1=CC=CC=C1)OC)=O | C21H23N3O4
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-benzyloxy-6-methoxy-[1,5]naphthyridin-3-ylamine | 1.70 g, 92% yield | C(C1=CC=CC=C1)OC1=C(C=NC2=CC=C(N=C12)OC)N | C16H15N3O2
